US04141899
A solution of 2.9 g of 4-ethyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (Farmaco, Ed. Sci. 1967, 22, 821) and 3 g of methyl isothiocyanate in 32 ml of acetonitrile and 8 ml of ethanol is refluxed for 8 h. The solution is evaporated in vacuo, and the residue crystallized from diethyl ether to give 3 g of 4-ethyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine, m.p. 230°.

reactant | 4-ethyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 2.9 g | C(C)C1NCCC2=C1N=CN2 | C8H13N3
reactant | methyl isothiocyanate | 3 g | CN=C=S | C2H3NS
solvent | acetonitrile | 32 ml | C(C)#N | C2H3N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 4-ethyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 3 g | C(C)C1N(CCC2=C1N=CN2)C(NC)=S | C10H16N4S
